US06281356B1
3-[6-(1H-Imidazol-2-yl)-1-methyl-1H-indol-3-yl]-4-(1-methyl-1H-indol-3-yl)pyrrole-2,5-dione (37 mg, 14%) was prepared as an orange solid using 1-methyl-6-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-1H-indole (200 mg, 0.61 mmol) and 1-methyl-3-indoleacetimidic acid isopropyl ester hydrochloride (162 mg, 0.61 mmol) followed by deprotection using 20% HCl in refluxing EtOH.

reactant | 1-methyl-6-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-1H-indole | 0.61 mmol, 200 mg | CN1C=CC2=CC=C(C=C12)C=1N(C=CN1)COCC[Si](C)(C)C | C18H25N3OSi
reactant | 1-methyl-3-indoleacetimidic acid isopropyl ester hydrochloride | 0.61 mmol, 162 mg | Cl.C(C)(C)OC(CC1=CN(C2=CC=CC=C12)C)=N
reactant | HCl | Cl | ClH
reactant | EtOH | CCO | C2H6O
product | 3-[6-(1H-Imidazol-2-yl)-1-methyl-1H-indol-3-yl]-4-(1-methyl-1H-indol-3-yl)pyrrole-2,5-dione | 37 mg, 14% | N1C(=NC=C1)C1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C25H19N5O2
